US08202863B2
To a solution of potassium carbonate (13.94 mmol) and 3-aminomethyl-piperidine-1-carboxylic acid tert-butyl ester (4.65 mmol) in ethyl acetate (30 mL) and water (20 mL) is added a solution of 2-(3-fluoro-phenyl)-pyrimidine-5-carboxylic acid chloride (4.65 mmol) in ethyl acetate (20 mL). The mixture is stirred at room temperature overnight. The reaction mixture is extracted with ethyl acetate, washed with water, dried (Na2SO4) and concentrated in vacuo to give 3-({[2-(3-fluoro-phenyl)-pyrimidine-5-carbonyl]-amino}-methyl)-piperidine-1-carboxylic acid tert-butyl ester as a solid. MS 415 (M+H); 1H NMR (300 MHz, CDCl3): δ 1.47 (s, 9H), 1.55-2.22 (m, 5H), 2.90-4.90 (m, 6H), 7.15-7.25 (m, H), 7.41-7.53 (m, H), 7.56 (bs, NH), 8.18 (d, H), 8.29 (d, H), 9.21 (s, 2H).

reactant | potassium carbonate | 13.94 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | 3-aminomethyl-piperidine-1-carboxylic acid tert-butyl ester | 4.65 mmol | C(C)(C)(C)OC(=O)N1CC(CCC1)CN | C11H22N2O2
reactant | 2-(3-fluoro-phenyl)-pyrimidine-5-carboxylic acid chloride | 4.65 mmol | FC=1C=C(C=CC1)C1=NC=C(C=N1)C(=O)Cl | C11H6ClFN2O
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 20 mL | O | H2O
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 3-({[2-(3-fluoro-phenyl)-pyrimidine-5-carbonyl]-amino}-methyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CCC1)CNC(=O)C=1C=NC(=NC1)C1=CC(=CC=C1)F | C22H27FN4O3
